US04128560
1,9-Diethyl-1,2,3,4-tetrahydrocarbazole-1-ethanamine (1; R1 and R4 = C2H5, R2, R3, R5 and R6 = H, m = 3, n = 1)
A suspension of the isocyanate, isocyanic acid 2-(1,9-diethyl-1,2,3,4-tetrahydrocarbazol-1-yl)ethyl ester (296 mg) described in Example 222, in 20% aqueous HCl (10 ml) is stirred and heated at 100° C. for 16 hr under nitrogen. The cooled solution is rendered alkaline witn 40% NaOH, saturated with NaCl and extracted with chloroform. The extract is dried (MgSO4) and concentrated to give the title compound, nmr (CDCl3) δ 0.7 (t, J = 7, 3H), 1.27 (t, J = 7, 3H), 4.0 (q, J = 7, 2H), 5.45 (b, 2H), 6.85-7.65 (m, 4H).

reactant | isocyanate | [N-]=C=O
reactant | isocyanic acid 2-(1,9-diethyl-1,2,3,4-tetrahydrocarbazol-1-yl)ethyl ester | 296 mg | C(C)C1(CCCC=2C3=CC=CC=C3N(C12)CC)CCN=C=O | C19H24N2O
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 10 ml | Cl | ClH
product | 1,9-Diethyl-1,2,3,4-tetrahydrocarbazole-1-ethanamine | C(C)C1(CCCC=2C3=CC=CC=C3N(C12)CC)CCN | C18H26N2
